US09079866B2
Step A: 2-(2-Chlorophenyl)pyrazine
2-Bromopyrazine (100 mg, 0.630 mmol) and ((2-chlorophenyl)boronic acid (103 mg, 0.660 mmol) were added to a 5 mL sealable vial equipped with a stir-bar. A solution consisting of 1,4-dioxane (3 mL) and Na2CO3 (1.6 mL, 2 M) was added and the mixture sparged with argon for 10 minutes before adding Pd(ddp)Cl2.CH2Cl2 (23 mg, 0.031 mmol) and heating at 80° Celsius for 15 hours. The reaction was then cooled to rt, diluted with 5 mL of ethyl acetate and 5 mL of water, and the mixture extracted with ethyl acetate (3×20 mL). The combined organic extracts were then dried with sodium sulfate and concentrated to dryness. The resultant residue was subjected to FCC to provide the title compound. 1H NMR (500 MHz, CDCl3) δ 8.98-8.96 (d, J=1.6, 1H), 8.70-8.68 (dd, J=2.5, 1.6, 1H), 8.58-8.56 (d, J=2.6, 1H), 7.66-7.58 (m, 1H), 7.54-7.50 (m, 1H), 7.43-7.39 (m, 2H).

reactant | 2-Bromopyrazine | 0.630 mmol, 100 mg | BrC1=NC=CN=C1 | C4H3BrN2
reactant | (2-chlorophenyl)boronic acid | 0.660 mmol, 103 mg | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | Na2CO3 | 2 M, 1.6 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | CH2Cl2 | 0.031 mmol, 23 mg | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 5 mL | O | H2O
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 2-(2-Chlorophenyl)pyrazine | ClC1=C(C=CC=C1)C1=NC=CN=C1 | C10H7ClN2
